.title KiCad schematic
.include "/home/flo/analog-synth/simulation/lib/BC547_557.lib"
.include "/home/flo/analog-synth/simulation/lib/TL074.ti.lib"
Q4 Net-_C5-Pad1_ Net-_Q2-Pad2_ Net-_C4-Pad1_ NC_01 BC557b
Q2 Net-_C5-Pad2_ Net-_Q2-Pad2_ Net-_C4-Pad2_ NC_02 BC557b
R3 0 signal_preatt 1k
V4 signal_in 0 SIN(0 2 1000)
Q12 VEE foo Net-_C5-Pad1_ NC_03 BC557b
Q8 VEE foo Net-_C5-Pad2_ NC_04 BC557b
Q11 Net-_C4-Pad1_ Net-_Q11-Pad2_ Net-_C3-Pad1_ NC_05 BC557b
Q7 Net-_C4-Pad2_ Net-_Q11-Pad2_ Net-_C3-Pad2_ NC_06 BC557b
Q10 Net-_C3-Pad1_ Net-_Q10-Pad2_ Net-_C2-Pad1_ NC_07 BC557b
Q6 Net-_C3-Pad2_ Net-_Q10-Pad2_ Net-_C2-Pad2_ NC_08 BC557b
R11 Net-_Q10-Pad2_ Net-_Q11-Pad2_ 150
R12 Net-_Q11-Pad2_ Net-_Q2-Pad2_ 150
R13 Net-_Q2-Pad2_ foo 150
R14 foo VEE 220
R6 Net-_R15-Pad1_ Net-_Q10-Pad2_ 150
R4 0 Net-_R15-Pad1_ 180
Q5 Net-_C2-Pad2_ Net-_C6-Pad1_ Net-_I1-Pad2_ NC_09 BC557b
R10 signal_out Net-_R10-Pad2_ 500k
Q9 Net-_C2-Pad1_ Net-_Q9-Pad2_ Net-_I1-Pad2_ NC_10 BC557b
R2 signal_in signal_preatt 100k
R15 Net-_R15-Pad1_ Net-_Q9-Pad2_ 470
R5 Net-_R15-Pad1_ Net-_C6-Pad1_ 470
C5 Net-_C5-Pad1_ Net-_C5-Pad2_ 47n
V1 VCC 0 5
V2 0 VEE 5
C4 Net-_C4-Pad1_ Net-_C4-Pad2_ 47n
C3 Net-_C3-Pad1_ Net-_C3-Pad2_ 47n
C2 Net-_C2-Pad1_ Net-_C2-Pad2_ 47n
I1 0 Net-_I1-Pad2_ 0.01m
C6 Net-_C6-Pad1_ signal_preatt 10u
R9 Net-_R7-Pad1_ 0 500k
XU2 Net-_R7-Pad1_ Net-_R10-Pad2_ VCC VEE signal_out TL074
R7 Net-_R7-Pad1_ diff1 1k
R8 Net-_R10-Pad2_ diff2 1k
Q102 VEE Net-_C5-Pad2_ diff2 NC_11 BC557b
Q101 VEE Net-_C5-Pad1_ diff1 NC_12 BC557b
R102 VCC diff2 10k
R101 VCC diff1 10k
.end
